US06136825
Triethylamine (0.62 ml) was added to a solution of (S)-4-(aminomethyl)-1-(7-chloro-1,4-benzodioxan-2-ylmethyl)piperidine (0.44 g) and 4-chlorobenzene-sulphonyl chloride (0.62 g) in dichloromethane (22 ml), under nitrogen, and stirred for 20 hours. The reaction was diluted with dichloromethane (100 ml), washed with water (100 ml) and brine (100 ml), dried over anhydrous magnesium sulphate and concentrated under reduced pressure. Purification by flash chromatography on silica gel eluting with a 20:1 mixture of dichloromethane and methanol gave (S)-(-)-N-{[1-(7-chloro-1,4-benzodioxan-2-ylmethyl)-4-piperidyl]methyl}-4-chlorobenzene-sulphonamide as a white solid (0.30 g); m.p. 152-154° C., [α]D22.5 -23.8° (c=0.97, CH2Cl2).

reactant | Triethylamine | 0.62 ml | C(C)N(CC)CC | C6H15N
reactant | (S)-4-(aminomethyl)-1-(7-chloro-1,4-benzodioxan-2-ylmethyl)piperidine | 0.44 g | NCC1CCN(CC1)C[C@H]1COC2=C(O1)C=C(C=C2)Cl | C15H21ClN2O2
reactant | 4-chlorobenzene-sulphonyl chloride | 0.62 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | dichloromethane | 22 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (S)-(-)-N-{[1-(7-chloro-1,4-benzodioxan-2-ylmethyl)-4-piperidyl]methyl}-4-chlorobenzene-sulphonamide | 0.30 g | ClC=1C=CC2=C(O[C@H](CO2)CN2CCC(CC2)CNS(=O)(=O)C2=CC=C(C=C2)Cl)C1 | C21H24Cl2N2O4S
